US06812226B2
(i) 5,6-Dichloro-N-(1-methylethyl)pyridine-3-carboxamide
The product was prepared from 5,6-dichloro-nicotinic acid (0.86 g), carbonyldiimidazole (0.8 g) and isopropylamine (0.52 ml) using the method of example 115 step (i). Yield 0.69 g.

reactant | 5,6-dichloro-nicotinic acid | 0.86 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | carbonyldiimidazole | 0.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 0.52 ml | C(C)(C)N | C3H9N
product | 5,6-Dichloro-N-(1-methylethyl)pyridine-3-carboxamide | ClC=1C=C(C=NC1Cl)C(=O)NC(C)C | C9H10Cl2N2O
